US07368578B2
To a mixture of 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-5-carbaldehyde (600 mg), ethyl diethylphosphonoacetate (300 mg) and N,N-dimethylformamide (10 mL) was added sodium hydride (60% in oil, 52.0 mg) at 0° C., and the mixture was stirred overnight at room temperature. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with dilute hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ethyl (E)-3-(3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazol5-yl)-2-propenoate (590 mg, yield 86%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:4, v/v). The crystals were recrystallized from ethyl acetate-hexane. melting point: 121-122° C.

reactant | 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-5-carbaldehyde | 600 mg | COC=1C=C(COC2=NN(C(=C2)C=O)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C29H25N3O5
reactant | ethyl diethylphosphonoacetate | 300 mg | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 52.0 mg | [H-].[Na+]
solvent | water | O | H2O
product | ethyl (E)-3-(3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazol5-yl)-2-propenoate | 590 mg, yield 86% | COC=1C=C(COC2=NN(C(=C2)/C=C/C(=O)OCC)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C33H31N3O6
